US07834019B2
In the same manner as in Production Example 5-1, but using tert-butyl piperazine-1-carboxylate in place of N-ethylpiperazine used in Production Example 5-1, using 2-fluoro-5-nitrotoluene in place of 2-fluoro-5-nitrobenzyl alcohol, using N,N-diisopropylethylamine in place of potassium carbonate, and using dimethylsulfoxide in place of N-methylpyrrolidone, 4.91 g of crude tert-butyl 4-[2-methyl-4-nitrophenyl]piperazine-1-carboxylate was obtained as a yellow solid.

reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-fluoro-5-nitrotoluene | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | tert-butyl 4-[2-methyl-4-nitrophenyl]piperazine-1-carboxylate | 4.91 g | CC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C16H23N3O4
